US07884207B2
A solution of HCl in ethanol (4.2 M, 0.8 mL, 3.56 mmol) was added to a suspension of tert-butyl 4-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}-4-[2-(methylsulfonyl)ethoxy]piperidine-1-carboxylate (0.40 g, 0.71 mmol) in ethanol (4 mL) at rt. The resulting yellow solution was heated at reflux for 1.5 h. The reaction was stirred at rt for 16 h, then was concentrated under reduced pressure. The resulting solid was dissolved in water (20 mL) and 20% aqueous NaOH was added until the pH=13. The solution was extracted with dichloromethane (3×50 mL). The organic layers were combined, washed with brine (50 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure to provide a solid that was crystallized from acetonitrile. The crystals were dried under vacuum at 65° C. to provide 2-(ethoxymethyl)-1-({4-[2-(methylsulfonyl)ethoxy]piperidin-4-yl}methyl)-1H-imidazo[4,5-c]quinolin-4-amine (0.25 g, 76%) as crystalline plates, mp 212-214° C. 1H NMR (300 MHz, DMSO-d6) δ 8.26 (d, J=8.1 Hz, 1H), 7.61 (d, J=8.1 Hz, 1H), 7.44 (t, J=8.1 Hz, 1H), 7.26 (t, J=8.1 Hz, 1H), 6.61 (bs, 2H), 4.85 (s, 2H), 4.81 (s, 2H), 3.70 (t, J=5.6 Hz, 2H), 3.55 (q, J=7.5 Hz, 2H), 3.19 (t, J=5.6 Hz, 2H), 2.92 (s, 3H) 2.66-2.58 (m, 4H), 1.84 (bs, 1H), 1.70-1.66 (m, 2H), 1.48-1.38 (m, 2H), 1.16 (t, J=7.5 Hz, 3H); MS (APCI) m/z 462 (M+H)+; Anal. Cacld for C22H31N5O4S: C, 57.25; H, 6.77; N, 15.17. Found: C, 57.48; H, 7.05; N, 15.57.

reactant | HCl | Cl | ClH
reactant | tert-butyl 4-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}-4-[2-(methylsulfonyl)ethoxy]piperidine-1-carboxylate | 0.71 mmol, 0.40 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2(CCN(CC2)C(=O)OC(C)(C)C)OCCS(=O)(=O)C)COCC | C27H39N5O6S
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | ethanol | 3.56 mmol, 4.2 M, 0.8 mL | C(C)O | C2H6O
product | 2-(ethoxymethyl)-1-({4-[2-(methylsulfonyl)ethoxy]piperidin-4-yl}methyl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.25 g, 76% | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC1(CCNCC1)OCCS(=O)(=O)C | C22H31N5O4S
